US06897224B2
5-(5-Fluoro-2-methoxyphenyl)-5-methyl-2-(2-methylquinolin-5-ylimino)-3-(trifluoromethyl)hexan-3-ol
645 mg (2 mmol) of 5-(5-fluoro-2-methoxyphenyl)-3-hydroxy-5-methyl-3-(trifluoromethyl) hexan-2-one is refluxed in 4 ml of tetrahydrofuran under nitrogen with 0.84 ml (4 mmol) of titanium tetraethylate and 348 mg (2.2 mmol) of 5-amino-2-methylquinoline for 24 hours. After cooling to room temperature, the reaction mixture is stirred into 20 ml of saturated NaCl solution, 50 ml of ethyl acetate is added, and it is stirred for 30 minutes, suctioned off on Celite, and rewashed with ethyl acetate and with tetrahydrofuran. The organic phase is separated, dried (sodium sulfate) and concentrated by evaporation. Chromatography on silica gel with hexane-ethyl acetate yields 578 mg of the product.

reactant | 5-(5-fluoro-2-methoxyphenyl)-3-hydroxy-5-methyl-3-(trifluoromethyl) hexan-2-one | 2 mmol, 645 mg | FC=1C=CC(=C(C1)C(CC(C(C)=O)(C(F)(F)F)O)(C)C)OC | C15H18F4O3
reactant | 5-amino-2-methylquinoline | 2.2 mmol, 348 mg | NC1=C2C=CC(=NC2=CC=C1)C | C10H10N2
reactant | NaCl | 20 ml | [Na+].[Cl-]
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
catalyst | titanium | 4 mmol, 0.84 ml | [Ti] | Ti
product | 5-(5-Fluoro-2-methoxyphenyl)-5-methyl-2-(2-methylquinolin-5-ylimino)-3-(trifluoromethyl)hexan-3-ol | 578 mg | FC=1C=CC(=C(C1)C(CC(C(C)=NC1=C2C=CC(=NC2=CC=C1)C)(O)C(F)(F)F)(C)C)OC | C25H26F4N2O2
